US06159990
To a solution of benzhydrylindene-(3,4-difluoro-benzyl)-amine (2.5 g, 8.1 mmol) in 50 mL of dry THF was added tert-butyllithium (1.7M, 6.2 mL) dropwise and the resulting solution was stirred at -78° C. for 0.5 h. To the solution was added cyclopropanecarboxaldehyde (0.90 ml, 12.0 mmol) in 10 ml of THF and the solution was stirred at -78° C. for 2 h and 25° C. for 1 h. The reaction was quenched by adding 1.0 mL of dilute acetic acid. Reaction mixture was diluted with 100 ml of Et2O and washed with brine. The organic layer was dried over Na2SO4 and concentrated in vacuo, yielding 2-(benzhydryliden-amino)-1-cyclopropyl-2-(3,4-difluoro-phenyl)-ethanol as a yellow oil, which was subjected to the following reaction without purification.

reactant | benzhydrylindene (3,4-difluoro-benzyl)-amine | 8.1 mmol, 2.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)C1C=CC2=CC=CC=C12.FC=1C=C(CN)C=CC1F
reactant | tert-butyllithium | 1.7M, 6.2 mL | C(C)(C)(C)[Li]
reactant | cyclopropanecarboxaldehyde | 12.0 mmol, 0.90 ml | C1(CC1)C=O | C4H6O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | Et2O | 100 ml | CCOCC | C4H10O
product | 2-(benzhydryliden-amino)-1-cyclopropyl-2-(3,4-difluoro-phenyl)-ethanol | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NC(C(O)C1CC1)C1=CC(=C(C=C1)F)F | C24H21F2NO
